US07858624B2
A solution of methyl 2-((R)-(3-chlorophenyl)((R)-piperidin-3-yl)methoxy)ethylcarbamate (40 mg, 0.12 mmol) and DIEA (0.10 mL, 0.55 mmol) in CH2Cl2 (1 mL) was added to 4-nitrophenyl (2S,3S)-5-(butylamino)-3-(tert-butyldimethylsilyloxy)-1-cyclohexyl-5-oxopentan-2-ylcarbamate (39 mg, 0.07 mmol). The mixture was stirred at rt for 3 h, diluted with ether (100 mL), washed with 5% aq HCl (20 mL) and 1 M aq NaOH (20 mL) and dried over MgSO4. Removal of the solvent left an oil (43 mg) which was dissolved in MeCN (2 mL) and treated with Et4N+F− (25 mg, 0.18 mmol). The solution was stirred at rt for 3 h and submitted directly to preparative HPLC to afford Methyl 2-((R)-((R)-1-((2S,3S)-5-(butylamino)-1-cyclohexyl-3-hydroxy-5-oxopentan-2-ylcarbamoyl)piperidin-3-yl)(3-chlorophenyl)methoxy)ethylcarbamate (30 mg, 38%) as an oil. 1H NMR (CD3OD) 0.92 (t, 3H), 1.0-1.9 (22H), 2.26 (m, 1H), 2.35 (m, 1H), 2.92 (m, 2H), 3.17 (m, 2H), 3.23 (m, 2H), 3.30 (2H), 3.61 (s, 3H), 3.80 (br d, 1H), 3.88 (br d, 1H), 3.94 (m, 1H), 4.03 (d, 1H), 4.15 (br d, 1H), 7.21 (d, 1H), 7.34 (3H); LC-MS (16 min) tR=9.89 min, m/z=623. It is noted that although the compound described in this example was the only compound prepared, the other compounds of the invention described herein could be prepared in accordance with the methods taught herein.

reactant | methyl 2-((R)-(3-chlorophenyl)((R)-piperidin-3-yl)methoxy)ethylcarbamate | 0.12 mmol, 40 mg | ClC=1C=C(C=CC1)[C@H](OCCNC(OC)=O)[C@H]1CNCCC1 | C16H23ClN2O3
reactant | DIEA | 0.55 mmol, 0.10 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-nitrophenyl (2S,3S)-5-(butylamino)-3-(tert-butyldimethylsilyloxy)-1-cyclohexyl-5-oxopentan-2-ylcarbamate | 0.07 mmol, 39 mg | C(CCC)NC(C[C@@H]([C@H](CC1CCCCC1)NC(OC1=CC=C(C=C1)[N+](=O)[O-])=O)O[Si](C)(C)C(C)(C)C)=O | C28H47N3O6Si
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
solvent | ether | 100 mL | CCOCC | C4H10O
product | Methyl 2-((R)-((R)-1-((2S,3S)-5-(butylamino)-1-cyclohexyl-3-hydroxy-5-oxopentan-2-ylcarbamoyl)piperidin-3-yl)(3-chlorophenyl)methoxy)ethylcarbamate | 30 mg, 38% | C(CCC)NC(C[C@@H]([C@H](CC1CCCCC1)NC(=O)N1C[C@@H](CCC1)[C@@H](OCCNC(OC)=O)C1=CC(=CC=C1)Cl)O)=O | C32H51ClN4O6
